US06797823B1
N-(2,4-Difluorophenyl)-N′-(2-fluoro-4-{[6-methoxy-7-(2-morpholinoethoxy)-4-quinolyl]oxy}phenyl )-urea
N-(2,4-Difluorophenyl)-N′-{2-fluoro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}urea (20 mg), potassium carbonate (7 mg), tetra-n-butylammonium iodide (2 mg), and N-(2-chloroethyl)morpholine hydrochloride (10 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 70° C. overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/methanol (30/1) to give 14 mg (yield 57%) of the title compound.

reactant | N-(2,4-Difluorophenyl)-N′-{2-fluoro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}urea | 20 mg | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)F | C23H16F3N3O4
reactant | potassium carbonate | 7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 10 mg | Cl.ClCCN1CCOCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | tetra-n-butylammonium iodide | 2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2,4-Difluorophenyl)-N′-(2-fluoro-4-{[6-methoxy-7-(2-morpholinoethoxy)-4-quinolyl]oxy}phenyl )-urea | 14 mg, yield 57% | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1)F | C29H27F3N4O5
